US07560558B2
4-Chloro-6,7-dimethoxyquinoline (200 mg) and 2,4-dimethylphenol (0.267 ml) were suspended in diethylene glycol dimethyl ether (0.1 ml), and the suspension was stirred at 180° C. for 1.5 hr. The reaction solution was cooled to room temperature, and an aqueous sodium hydroxide solution was then added to the reaction solution. The mixture was extracted with chloroform. The chloroform layer was then washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel using acetone-chloroform to give 4-(2,4-dimethylphenoxy)-6,7-dimethoxyquinoline (127 mg, yield 46%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 200 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 2,4-dimethylphenol | 0.267 ml | CC1=C(C=CC(=C1)C)O | C8H10O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | diethylene glycol dimethyl ether | 0.1 ml | COCCOCCOC | C6H14O3
product | 4-(2,4-dimethylphenoxy)-6,7-dimethoxyquinoline | 127 mg, yield 46% | CC1=C(OC2=CC=NC3=CC(=C(C=C23)OC)OC)C=CC(=C1)C | C19H19NO3
